US06384057B1
1-Trimethylsilyloxy-1-(naphthalen-2-yl)ethylene (7.0 mmol; prepared according to J. Chem. Soc.,Perkin Trans. I 1989, 1585) and CsF (0.27 g, 1.76 mmol) were added to a suspension of 3-(3,4-difluorophenyl)-1-(2-hydroxyphenyl)-2-propen-1-one on Wang resin (2.0 g, 1.76 mmol) in dimethyl sulfoxide (30 mL). The reaction mixture was heated to 70° C. for 3 h and the reaction was quenched with 10% AcOH/CH2Cl2. The resin was filtered, washed with DMF (×2) and alternating MeOH and CH2Cl2 (×5), and dried under high vacuum overnight to give 3-(3,4-difluorophenyl)-1-(2-hydroxyphenyl)-5-(naphthalen-2-yl)-1,5-pentanedione on Wang resin.

reactant | 1-Trimethylsilyloxy-1-(naphthalen-2-yl)ethylene | 7.0 mmol | C[Si](OC(=C)C1=CC2=CC=CC=C2C=C1)(C)C | C15H18OSi
reactant | CsF | 1.76 mmol, 0.27 g | [F-].[Cs+]
reactant | 3-(3,4-difluorophenyl)-1-(2-hydroxyphenyl)-2-propen-1-one | FC=1C=C(C=CC1F)C=CC(=O)C1=C(C=CC=C1)O | C15H10F2O2
solvent | dimethyl sulfoxide | 30 mL | CS(=O)C | C2H6OS
product | 3-(3,4-difluorophenyl)-1-(2-hydroxyphenyl)-5-(naphthalen-2-yl)-1,5-pentanedione | FC=1C=C(C=CC1F)C(CC(=O)C1=C(C=CC=C1)O)CC(=O)C1=CC2=CC=CC=C2C=C1 | C27H20F2O3
